US06803486B2
(3-Aminophenyl)carbamic acid tert-butyl ester (45).
A solution of di-tert-butyl-dicarbonate (2 g, 9.16 mmol, 1 equiv.) in dioxane (25 mL) was added over a period of 30 min to a solution of 1,3-phenylenediamine (2 g, 18.5 mmol, 2 equiv.) in dioxane (25 mL). The mixture was allowed to stir for 22 h, and the solvent was removed using a rotary evaporator. The residue was purified by flash column chromatography on silica gel (EtOAc:hexane=2:1) to afford 1.7 g of product (89% based on dicarbonate) as a peach color solid: 1H NMR (500 MHz, CDCl3) 7.11 (t, J=8 Hz, 1H), 6.60 (d, J=8 Hz, 1H), 6.52 (t, J=8 Hz, 1H), 6.47 (s, 1H), 4.79 (s, 1H), 1.44 (s, 9H). HRMS (EI) m/z (M+) calcd for C11H16N2O2 208.1211, found 208.1201.

reactant | di-tert-butyl-dicarbonate | 9.16 mmol, 2 g, 1 equiv. | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,3-phenylenediamine | 18.5 mmol, 2 g, 2 equiv. | C1(=CC(=CC=C1)N)N | C6H8N2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (3-Aminophenyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)N)=O | C11H16N2O2
